US07348343B2
1-(1-chloroethyl) 4-ethyl 3,6-dihydro-1,4(2H)-pyridinedicarboxylate
Ethyl 1-methyl-1,2,3,6-tetrahydro-4-pyridinecarboxylate (47 g, 278 mmol) in dichloroethane (800 mL) was treated with α-chloroethyl chloroformate (50 g, 350 mmol) dropwise at 0° C. The mixture was warmed to room temperature, refluxed for 2 hours, and then allowed to cool to room temperature. The mixture was concentrated under reduced pressure and the residue was purified via column chromatography (SiO2, ethyl acetate) to provide the title compound. 1H NMR (300 MHz, CDCl3) δ 6.88 (m, 1H), 6.61 (q, 1H), 4.22 (q, 2H), 4.16 (m, 2H), 7.35 (d, 2H), 3.58 (m, 2H), 2.44 (m, 2H), 1.82 (d, 3H), 1.30 (t, 3H).

reactant | Ethyl 1-methyl-1,2,3,6-tetrahydro-4-pyridinecarboxylate | 278 mmol, 47 g | CN1CCC(=CC1)C(=O)OCC | C9H15NO2
reactant | α-chloroethyl chloroformate | 350 mmol, 50 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 800 mL | ClC(C)Cl | C2H4Cl2
product | 1-(1-chloroethyl) 4-ethyl 3,6-dihydro-1,4(2H)-pyridinedicarboxylate | N1(CCC(=CC1)C(=O)OCC)C(=O)OC(C)Cl | C11H16ClNO4
